US07109219B2
N1-Methyl-5-(2-amino-5-iodo-4-pyrimidyl)oxy-1H-1-indolecarboxamide
N1-Methyl-5-(2-amino-4-pyrimidyl)oxy-1H-1-indolecarboxamide (302 mg, 1.07 mmol) and N-iodosuccinimide (301 mg, 1.34 mmol) were dissolved in N,N-dimethylformamide (3.0 ml); and the reaction mixture was stirred at room temperature for 1 hour. The reaction mixture was partitioned between ethyl acetate and water; and the organic layer was washed with water and brine, and was dried over anhydrous magnesium sulfate. The solvent was distilled off; and the residue was purified by silica gel column chromatography (eluent; ethyl acetate:hexane=2:1) to yield the title compound as yellow crystals (224 mg, 0.547 mmol, 51%).

reactant | N1-Methyl-5-(2-amino-4-pyrimidyl)oxy-1H-1-indolecarboxamide | 1.07 mmol, 302 mg | CNC(=O)N1C=CC2=CC(=CC=C12)OC1=NC(=NC=C1)N | C14H13N5O2
reactant | N-iodosuccinimide | 1.34 mmol, 301 mg | IN1C(CCC1=O)=O | C4H4INO2
solvent | N,N-dimethylformamide | 3.0 ml | CN(C=O)C | C3H7NO
product | N1-Methyl-5-(2-amino-5-iodo-4-pyrimidyl)oxy-1H-1-indolecarboxamide | 0.547 mmol, 224 mg, 51% | CNC(=O)N1C=CC2=CC(=CC=C12)OC1=NC(=NC=C1I)N | C14H12IN5O2
